US04863904
To a solution of 3.4 g of 2-benzyl-3-phenylpropionic acid ethyl ester in 170 ml of ethanol was added 34 ml of a 2N-aqueous sodium hydroxide solution, and the mixture was heated under reflux for 1.5 hours. The reaction mixture was concentrated under reduced pressure, and water was added to the residue. The mixture was washed with diethyl ether to remove neutral materials, then the aqueous solution was acidified by adding concentrated hydrochloric acid. The aqueous solution was extracted with diethyl ether. The ethereal layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain 2.8 g of 2-benzyl-3-phenylpropionic acid as colorless crystals.

reactant | 2-benzyl-3-phenylpropionic acid ethyl ester | 3.4 g | C(C)OC(C(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C18H20O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 170 ml | C(C)O | C2H6O
product | 2-benzyl-3-phenylpropionic acid | 2.8 g | C(C1=CC=CC=C1)C(C(=O)O)CC1=CC=CC=C1 | C16H16O2
